US20010053779A1
A mixture comprising 4-chlorobutyryl chloride (12.6 g, 89.2 mmol), tert-butanol (25 mL), pyridine (6.9 g, 86.5 mmol) and 4-dimethylaminopyridine (1.0 g, 8.2 mmol) was heated at 50° C. under an atmosphere of dry nitrogen for 12 hours to give a white suspension. The suspension was partitioned between ethyl ether (250 mL) and water and the organic layer was separated and washed repeatedly with water then 0.1M aqueous hydrochloric acid, saturated aqueous sodium carbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to a colorless oil. The oil was distilled at 0.5 mmHg (51° C.) to provide tert-butyl 4-chlorobutyrate as a colorless liquid (11.27 g, 73% yield); 1H NMR (300 MHz, CDCl3): 3.60 (tr, 2H), 2.40 (tr, 2H), 2.10 (m, 2H), 1.45 (s, 9H).

reactant | 4-chlorobutyryl chloride | 89.2 mmol, 12.6 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | pyridine | 86.5 mmol, 6.9 g | N1=CC=CC=C1 | C5H5N
reactant | tert-butanol | 25 mL | C(C)(C)(C)O | C4H10O
catalyst | 4-dimethylaminopyridine | 8.2 mmol, 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 4-chlorobutyrate | 11.27 g, 73% yield | ClCCCC(=O)OC(C)(C)C | C8H15ClO2
